US06365706B1
Into 250 ml of anhydrous liquid ammonia in a beaker, 39.2 g (400 mmol) of maleic anhydride (MA) were carefully added into the solution. The reaction occurred for 30 minutes at −33° C. A white precipitate was formed. After the remaining ammonia was removed by evaporation, the product was dried under vacuum at 40° C. Finally, 52.7 g of maleamic acid ammonia salt (MAA) were obtained. The MAA, in a beaker, was placed in a nitrogen-flowing oven. At about 160° C., the reactant started to melt and turned brown. At approximately the same time, the material started to expand due to the release of ammonia and water vapor. It was then heated at 220° C. for two hours under a nitrogen atmosphere. After cooling down, 38.6 g of brown porous material were obtained.

reactant | ammonia | N | H3N
reactant | maleic anhydride | 400 mmol, 39.2 g | C1(\C=C/C(=O)O1)=O | C4H2O3
product | maleamic acid ammonia salt | 52.7 g | N.C(\C=C/C(=O)N)(=O)O | InChI=1S/C4H5NO3.H3N/c5-3(6)1-2-4(7)8;/h1-2H,(H2,5,6)(H,7,8);1H3/b2-1-;
